US06689531B2
Synthesis of poly(p-1-ethoxyethoxystyrene/p-hydroxystyrene)
Into a flask were charged 108.3 g of a solution of poly(p-hydroxystyrene)(weight-average molecular weight: about 15200, degree of dispersion: 1.20 (GPC method: reduced by polystyrene), 30.0 g as the weight of poly(p-hydroxystyrene)), 0.005 g of p-toluenesulfonic acid monohydrate and 102 g of methyl isobutyl ketone, and the mixture was stirred. Into this resin solution was dropped 8.7 g of ethyl vinyl ether (0.12 mol, 0.48 equivalent based on hydroxyl groups in poly(p-hydroxystyrene)) using a dropping funnel. The mixture was stirred at 25° C. for 3 hours, then, to this was added 15 g of methyl isobutylketone and 57 g of ion exchanged water, and the solution was separated. Further, the resulted organic layer was washed with 57 g of ion exchanged water and separated, four times.

reactant | poly(p-hydroxystyrene) | C#CC1=CC=C(C=C1)O | C8H6O
reactant | p-toluenesulfonic acid monohydrate | 0.005 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | methyl isobutyl ketone | 102 g | C(C(C)C)C(=O)C | C6H12O
reactant | ethyl vinyl ether | 0.12 mol, 8.7 g, 0.48 equivalent | C(=C)OCC | C4H8O
reactant | methyl isobutylketone | 15 g | CC(=O)CC(C)C | C6H12O
solvent | water | O | H2O
product | p-1-ethoxyethoxystyrene p-hydroxystyrene | C(C)OCCOC1=CC=C(C=C)C=C1.OC1=CC=C(C=C)C=C1 | InChI=1S/C12H16O2.C8H8O/c1-3-11-5-7-12(8-6-11)14-10-9-13-4-2;1-2-7-3-5-8(9)6-4-7/h3,5-8H,1,4,9-10H2,2H3;2-6,9H,1H2
